US06632810B2
Synthesis of 2-hydroxymethyl-5,6,7-trimethoxybenzoxazole:
(6′-Nitro-2′,3′,4′-trimethoxyphenyl) benzyloxyacetate (1.38 g) was dissolved in methanol (40 mL), 10% palladium on carbon was added to the solution, and the mixture was stirred at room temperature for 7 hours under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated. The residue was dissolved in xylene (50 mL), p-toluenesulfonic acid monohydrate (350 mg) was added to the solution, and the mixture was stirred for 1 hour under reflux. After the reaction mixture was concentrated under reduced pressure, water was added to the residue to conduct extraction with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by preparative TLC on silica gel (chloroform:methanol=10:1) to obtain the title compound.

reactant | (6′-Nitro-2′,3′,4′-trimethoxyphenyl) benzyloxyacetate | 1.38 g | C(C1=CC=CC=C1)OCC(=O)OC1=C(C(=C(C=C1[N+](=O)[O-])OC)OC)OC | C18H19NO8
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-hydroxymethyl-5,6,7-trimethoxybenzoxazole | OCC=1OC2=C(N1)C=C(C(=C2OC)OC)OC | C11H13NO5
